US08084620B2
Step 2 A suspension of N-(3-bromo-2-fluorophenyl)formamide (216 mg, 0.991 mmol) in THF (8 mL) was treated with borane dimethyl sulfide complex (2.0 M in THF, 1.486 mL, 2.97 mmol) and the resulting mixture was heated at reflux for 2 h. 1 M hydrochloric acid was added and the mixture was again heated at reflux for 1 h. The mixture was cooled to rt and concentrated and the residue was partitioned between NaHCO3 (aq) and EtOAc. The organic phase was washed with brine, dried and concentrated to provide 3-bromo-2-fluoro-N-methylaniline as a light yellow oil (60 mg, 30%). Mass spectrum m/z 204, 206 (M+H)+.

reactant | N-(3-bromo-2-fluorophenyl)formamide | 0.991 mmol, 216 mg | BrC=1C(=C(C=CC1)NC=O)F | C7H5BrFNO
reactant | borane dimethyl sulfide | 2.97 mmol, 2.0 M, 1.486 mL | CSC.B
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-bromo-2-fluoro-N-methylaniline | 60 mg, 30% | BrC=1C(=C(NC)C=CC1)F | C7H7BrFN
